US05506358
1,2-Dichloroethane (1 ml), thionyl chloride (0.03 g, 0.28 mmol) and dimethylformamide (DMF)(0.01 ml) were added to (E)-2-(2-chloro-3-pyridyloxymethyl)-α-methoxyiminophenylacetic acid (0.05 g, 0.14 mmol). The mixture was stirred under reflux for 1 hour. To the reaction mixture was added 40% methylamine/methanol solution (1 ml) under ice-cooling. The mixture was stirred at 0° C. for 1 hour. After completion of the reaction, water (100 ml) was added, and the mixture was extracted with methylene chloride (50 ml) twice. The methylene chloride layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel chromatography (ethyl acetate/n-hexane) to give (E)-2-[2-(2-chloro-3-pyridyloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide (0.02 g, 42.8 %) as colorless crystals.

reactant | 1,2-Dichloroethane | 1 ml | ClCCCl | C2H4Cl2
reactant | thionyl chloride | 0.28 mmol, 0.03 g | S(=O)(Cl)Cl | Cl2OS
reactant | (E)-2-(2-chloro-3-pyridyloxymethyl)-α-methoxyiminophenylacetic acid | 0.14 mmol, 0.05 g | ClC1=NC=CC=C1OCC1=C(C=CC=C1)\C(\C(=O)O)=N/OC | C15H13ClN2O4
reactant | methylamine methanol | 1 ml | CN.CO
solvent | water | 100 ml | O | H2O
solvent | dimethylformamide | 0.01 ml | CN(C=O)C | C3H7NO
product | (E)-2-[2-(2-chloro-3-pyridyloxymethyl)phenyl]-2-methoxyimino-N-methylacetamide | 0.02 g, 42.8 % | ClC1=NC=CC=C1OCC1=C(C=CC=C1)\C(\C(=O)NC)=N/OC | C16H16ClN3O3
